US04551263
270 g of propionic acid anhydride are added dropwise to 101 g of 1,2,4-triazolidine-3,5-dione in 100 g pyridine at 100° C. within 2 hours. The reaction mixture is stirred for another hour at 100° C. to complete the reaction. After cooling the mixture to room temperature the precipitate is filtered off under suction, washed first with propionic acid and then with ethanol and is dried in vacuo at 70° C. 187 g (=88% of theory) of 1,2-bispropionyl-1,2,4-triazolidine-3,5-dione having a melting point of 208° C. are obtained.

reactant | propionic acid anhydride | 270 g | C(CC)(=O)OC(CC)=O | C6H10O3
reactant | 1,2,4-triazolidine-3,5-dione | 101 g | N1NC(NC1=O)=O | C2H3N3O2
solvent | pyridine | 100 g | N1=CC=CC=C1 | C5H5N
product | 1,2-bispropionyl-1,2,4-triazolidine-3,5-dione | 187 g, 88% | C(CC)(=O)N1N(C(NC1=O)=O)C(CC)=O | C8H11N3O4
